US08614201B2
Intermediate 11: 2-[2-Pyridin-3-yl-6-(4-trifluoromethyl-phenyl)-pyrimidin-4-ylmethyl]-isoindole-1,3-dione
To a solution of 2-[2-chloro-6-(4-trifluoromethyl-phenyl)-pyrimidin-4-ylmethyl]-isoindole-1,3-dione (0.30 g, 0.72 mmol) in DME (4 mL) and H2O (1 mL) was added 3-pyridine boronic acid (0.09 g, 0.72), Pd(PPh3)4 (0.04 g, 0.04 mmol), and K3PO4 (0.21 g, 1.01 mmol) at rt. The resulting mixture was heated to 80° C. for 12 hours then allowed to cool to rt. At which time the mixture was partitioned between H2O (5 mL) and EtOAc (5 mL). The layers were separated and the aqueous layer was extracted with EtOAc (2×5 mL). The organic layers were combined, dried over Na2SO4, filtered, concentrated and purified by FCC to afford the title compound as a colorless solid (0.11 g, 33%). MS (ESI): mass calcd. for C25H15F3N4O2, 460.1; m/z found, 461.2 [M+H]+.

reactant | 2-[2-chloro-6-(4-trifluoromethyl-phenyl)-pyrimidin-4-ylmethyl]-isoindole-1,3-dione | 0.72 mmol, 0.30 g | ClC1=NC(=CC(=N1)CN1C(C2=CC=CC=C2C1=O)=O)C1=CC=C(C=C1)C(F)(F)F | C20H11ClF3N3O2
reactant | 3-pyridine boronic acid | 0.09 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | K3PO4 | 1.01 mmol, 0.21 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | DME | 4 mL | COCCOC | C4H10O2
solvent | H2O | 1 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.04 mmol, 0.04 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-[2-Pyridin-3-yl-6-(4-trifluoromethyl-phenyl)-pyrimidin-4-ylmethyl]-isoindole-1,3-dione | 0.11 g, 33% | N1=CC(=CC=C1)C1=NC(=CC(=N1)CN1C(C2=CC=CC=C2C1=O)=O)C1=CC=C(C=C1)C(F)(F)F | C25H15F3N4O2
